US09102671B2
A N2 purged flask was charged with 5-bromo-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-26) (0.19 g, 0.39 mmol), palladium acetate (3 mg, 12 μmol), RuPhos (11 mg, 24 μmol), cesium carbonate (0.25 g, 0.78 mmol), tBuOH (1 mL) and (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol (I-32) (71 mg, 0.39 mmol). The contents were heated to 120° C. overnight in an oil bath. Upon cooling to room temperature the reaction was filtered through celite and concentrated. The crude product was purified by column chromatography on silica gel with EtOAc/hexanes gradient as eluant to yield 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-33). 1H NMR (400 MHz, CDCl3) δ 7.96-7.84 (m, 1 H), 7.65-7.49 (m, 1 H), 7.09-7.04 (m, 3 H), 7.01-6.95 (m, 3 H), 6.92-6.81 (m, 3 H), 6.72-6.64 (m, 4 H), 6.05-5.92 (m, 1 H), 4.79-4.69 (m, 1 H), 4.56-4.41 (m, 3 H), 4.38-4.26 (m, 2 H), 3.96-3.86 (m, 1 H), 3.66-3.59 (m, 6 H), 2.63-2.49 (m, 1 H), 2.06-1.94 (m, 1 H), 1.87-1.79 (m, 1 H). MS m/z 581.2 (M+1)+

reactant | 5-bromo-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.39 mmol, 0.19 g | BrC1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C24H22BrN3O3
reactant | RuPhos | 24 μmol, 11 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | cesium carbonate | 0.78 mmol, 0.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol | 0.39 mmol, 71 mg | FC=1C=C(C=CC1)[C@H]1C[C@H](CN1)O | C10H12FNO
catalyst | palladium acetate | 12 μmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tBuOH | 1 mL | CC(C)(C)O | C4H10O
product | 5-((2R,4R)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C34H33FN4O4
